US08349824B2
The product was prepared in the same manner as described in example 1b using 1,2-diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate (2.24 g, 5.77 mmol) and 6-fluoropicolinoyl chloride (1.84 g, 11.5 mmol) as starting materials. The reaction affords 7-bromo-2-(6-fluoro-pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyridine (1.44 g, 85.4%) as brown solid. MS: m/z=294.9 (M+H+).

reactant | 1,2-diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate | 5.77 mmol, 2.24 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=C(C=C(C=C1)Br)N
reactant | 6-fluoropicolinoyl chloride | 11.5 mmol, 1.84 g | FC1=CC=CC(=N1)C(=O)Cl | C6H3ClFNO
product | 7-bromo-2-(6-fluoro-pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyridine | 1.44 g, 85.4% | BrC1=CC=2N(C=C1)N=C(N2)C2=NC(=CC=C2)F | C11H6BrFN4
